US09102673B2
Step 2: Methyl 4-(3-methoxyphenyl)-1-(3-phenylpropyl)-1H-pyrrolo[3,2-c]pyridine-2-carboxylate
Methyl 4-(3-methoxyphenyl)-1H-pyrrolo[3,2-c]pyridine-2-carboxylate (50 mg, 0.177 mmole) and K2CO3 (49.0 mg, 0.354 mmole) were combined in a screw cap vial. To this was added 1,4-dioxane (0.75 mL) and 1-bromo-3-phenylpropane (0.035 mL, 0.230 mmole). The vial was capped then heated to 100° C. After stirring overnight the mixture was cooled to RT and diluted with EtOAc. The mixture was filtered through Celite washing with EtOAc. The filtrate was concentrated. Flash column (Biotage-SNAP-10 g SiO2, 30% EtOAc/hexanes) gave the title compound (68 mg, 96%) as a pale yellow oil. 1H NMR (399 MHz, CDCl3): δ 8.46 (d, J=6.0 Hz, 1 H); 7.58 (d, J=1.0 Hz, 1 H); 7.55-7.50 (m, 2 H); 7.48-7.39 (m, 1 H); 7.32-7.27 (m, 2H); 7.23-7.17 (m, 3 H); 7.09 (dd, J=6.0, 1.0 Hz, 1 H); 7.02 (ddd, J=8.2, 2.7, 1.1 Hz, 1 H); 4.65-4.57 (m, 2 H); 3.91 (m, 6 H); 2.76-2.68 (m, 2 H); 2.21-2.13 (m, 2 H).

reactant | Methyl 4-(3-methoxyphenyl)-1H-pyrrolo[3,2-c]pyridine-2-carboxylate | 0.177 mmole, 50 mg | COC=1C=C(C=CC1)C1=NC=CC2=C1C=C(N2)C(=O)OC | C16H14N2O3
reactant | K2CO3 | 0.354 mmole, 49.0 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 1,4-dioxane | 0.75 mL | O1CCOCC1 | C4H8O2
reactant | 1-bromo-3-phenylpropane | 0.230 mmole, 0.035 mL | BrCCCC1=CC=CC=C1 | C9H11Br
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Methyl 4-(3-methoxyphenyl)-1-(3-phenylpropyl)-1H-pyrrolo[3,2-c]pyridine-2-carboxylate | 68 mg, 96% | COC=1C=C(C=CC1)C1=NC=CC2=C1C=C(N2CCCC2=CC=CC=C2)C(=O)OC | C25H24N2O3
